US06734183B2
NaH (2.88 g, 66 mmol, 55% dispersion in mineral oil) was stirred in dry DME (200 ml), under Argon. A mixture of 2,5-dichloropyridine (8.87 g, 60 mmol) and 4-hydroxypiperidine (6.67 g, 66 mmol) dissolved in dry DME (200 ml) was added to the NaH suspension dropwise, over a period of 30 minutes. After complete addition the reaction is heated to 82° C. for 48 hrs, maintaining the Argon blanket. The reaction was slowly quenched with water before removing most of the THF. Extracted the aqueous with DCM (×3). The organic layers were dried with Na2SO4 and evaporated in vacuo to afford 2-(4-piperidinyloxy)-5-chloropyridine as a yellow oil (12.7 g, quantitative).

reactant | NaH | 66 mmol, 2.88 g | [H-].[Na+]
reactant | 2,5-dichloropyridine | 60 mmol, 8.87 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | 4-hydroxypiperidine | 66 mmol, 6.67 g | OC1CCNCC1 | C5H11NO
solvent | DME | 200 ml | COCCOC | C4H10O2
solvent | DME | 200 ml | COCCOC | C4H10O2
product | 2-(4-piperidinyloxy)-5-chloropyridine | N1CCC(CC1)OC1=NC=C(C=C1)Cl | C10H13ClN2O
